US08258119B2
6-Phenyl-3H-thiopheno[3,2-d]1,2,3-triazin-4-one:
To an ice cold solution (0° C.) of 3-amino-5-phenylthiophene-2-carboxamide (0.37 g, 1.7 mmol) in concentrated sulfuric acid (20 mL) was added a cold (0° C.) solution of sodium nitrite (120 mg, 1.86 mmol) in concentrated sulfuric acid (8 mL) for 10 min (while adding, the temperature should keep between −5-0° C.). After addition, the mixture was stirred at 0° C. for 1 h and at rt for 1 h. The reaction mixture was cooled and poured into crushed ice slowly with stirring for 15 min and stirred at the same temperature for 15 min. The solution was extracted with ethyl acetate (3×50 mL) and the combined EtOAc layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent to give the product as an off-white color solid (200 mg, 39%), my 178-180° C. 1H NMR (400 MHz, CDCl3): δ 12.30 (1H, br s), 7.86 (1H, s), 7.73-7.75 (2H, m), 7.49-7.54 (3H, m); LC-MS (negative ion mode): m/z 228 (M−H)−.

reactant | 3-amino-5-phenylthiophene-2-carboxamide | 1.7 mmol, 0.37 g | NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)N | C11H10N2OS
reactant | sodium nitrite | 1.86 mmol, 120 mg | N(=O)[O-].[Na+]
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
product | 6-Phenyl-3H-thiopheno[3,2-d]1,2,3-triazin-4-one | 200 mg, 39% | C1(=CC=CC=C1)C1=CC=2N=NNC(C2S1)=O | C11H7N3OS
